US08053440B2
To a solution of 3-bromo-4-hydroxybenzaldehyde (5 g, 2.44 mmol) in acetone (100 mL) under nitrogen atmosphere was added potassium carbonate (50 6 g, 36.6 mmol). The slurry mixture was cooled to 0° C. and chloromethyl ether (9.25 mL, 12.2 mmol) was added dropwise. The ice bath was removed and the mixture was heated at 70° C. for 2.5 h. After cooling to room temperature, excess potassium carbonate was filtered off and the acetone evaporated under reduced pressure. The residue was dissolved in ethyl acetate (300 mL) and water (100 mL) was added. The organic layer was separated, washed with 0.5 N sodium hydroxide solution (100 mL×2) followed by brine and dried over sodium sulfate and concentrated to give a crude oil (6.69 g), which was purified by Flash Column Chromatography on 230-400 mesh silica gel (40-63 μm particle size) eluted with EtOAc/hexane: ⅔ to provide pure 3-bromo-4-methoxymethoxy-benzaldehyde, as an oil (4.46 g, 73.2%). To a solution of 3-bromo-4-methoxymethoxy-benzaldehyde (4.4 g, 17.9 mmol) and vinyltributyl tin (5.8 mL, 19.7 mmol) in toluene (130 mL) under nitrogen atmosphere was added an catalytic amount of tetrakis(triphenylphosphine)palladium (0.79 mg, 0.68 mmol). The resulting mixture was heated at 100° C. overnight, cooled to room temperature and a saturated potassium fluoride solution (30 mL) was added. The solution was stirred for 30 min then diluted with ethyl acetate, separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated under reduced pressure to provide crude yellow oil (4.6 g). The crude was purified by flash column chromatography to give pure 4-methoxymethoxy-3-vinyl-benzaldehyde as a yellow oil (1.95 g, 56.5%). To a solution of 4-methoxymethoxy-3-vinyl-benzaldehyde (1.8 g, 9.46 mmol) in THF (25 mL) under nitrogen was added borane dimethyl sulfide complex at 0° C. The solution was allowed to warm to room temperature and was stirred for 18 h. The reaction mixture was quenched at 0° C. with methanol (12 mL), hydrogen peroxide solution (8 mL) and 4 N sodium hydroxide solution (12 mL). The mixture was vigorously stirred at room temperature for 12 h and was diluted with ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated under reduced pressure to provide crude oil (3.2 g). The crude was purified by flash column chromatography to give pure 2-(5-hydroxymethyl-2-methoxymethoxy-phenyl)-ethanol (1.19 g, 59.5%). The mixture of 2-(5-hydroxymethyl-2-methoxymethoxy-phenyl)-ethanol (0.78 g, 3.69 mmol) and magnesium dioxide (0.086 g, 0.99 mmol) in chloroform (12 mL) was heated at 80° C. for 3 h under nitrogen. The reaction mixture was cooled to room temperature and was diluted with chloroform and filtered through a Celite pad to give the desired 3-(2-hydroxy-ethyl)-4-methoxymethoxy-benzaldehyde (0.63 g, 81.3%), which was used without further purification.

reactant | 3-bromo-4-methoxymethoxy-benzaldehyde | 17.9 mmol, 4.4 g | BrC=1C=C(C=O)C=CC1OCOC | C9H9BrO3
reactant | vinyltributyl tin | 19.7 mmol, 5.8 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | 30 mL | [F-].[K+]
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.68 mmol, 0.79 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methoxymethoxy-3-vinyl-benzaldehyde | 1.95 g, 56.5% | COCOC1=C(C=C(C=O)C=C1)C=C | C11H12O3
